US08070968B2
2-hydroxy-2-methyl-1-phenyl-propane-1-on (Darocur 1173 manufactured by Ciba Specialty Chemicals).
Other examples are Irgacure 2959, Irgacure 127, Irgacure 907, Irgacure 369, Irgacure 379, Darocur TPO, Irgacure 819, Irgacure 784, Irgacure OXE01, Irgacure OXE02, and Irgacure 754 (all are manufactured by Ciba Specialty Chemicals).

reactant | Irgacure 2959 | CC(C)(C(=O)C1=CC=C(C=C1)OCCO)O | C12H16O4
reactant | Irgacure 907 | CC(C)(C(=O)C1=CC=C(C=C1)SC)N2CCOCC2 | C15H21NO2S
reactant | Irgacure 369 | CCC(CC1=CC=CC=C1)(C(=O)C2=CC=C(C=C2)N3CCOCC3)N(C)C | C23H30N2O2
reactant | Irgacure 754 | C1=CC=C(C=C1)C(=O)C(=O)OCCOCCOC(=O)C(=O)C2=CC=CC=C2 | C20H18O7
catalyst | Irgacure 784 | C1=C[CH]C=C1.C1=C[CH]C=C1.C1=CN(C=C1)[C]2C=CC(=C=C2F)F.C1=CN(C=C1)[C]2C=CC(=C=C2F)F.[Ti]
product | 2-hydroxy-2-methyl-1-phenyl-propane-1-on | OC(C(=O)C1=CC=CC=C1)(C)C | C10H12O2
